US05610303
4-[(1-benzyl-4-piperidinylidene)acetyl]aniline
4.12 g of N-t-butoxycarbonyl-4-[(1-benzyl-4-piperidinyliden)acetyl]aniline was added to 50 ml of chloroform, and then 10 ml of trifluoroacetic acid was added thereto. The mixture was stirred at room temperature for 4 hours. After the reaction, the reaction mixture was condensed under reduced pressure, and the residue was dissolved in chloroform. Then, the solution was neutralized by adding a 28% sodium methylate·methanol solution thereto. The residue obtained by condensation under reduced pressure was applied to silica gel column chromatography to obtain 2.33 g of the title compound as bluish green powder.

reactant | N-t-butoxycarbonyl-4-[(1-benzyl-4-piperidinyliden)acetyl]aniline | 4.12 g | C(C)(C)(C)OC(=O)NC1=CC=C(C=C1)C(C=C1CCN(CC1)CC1=CC=CC=C1)=O | C25H30N2O3
reactant | trifluoroacetic acid | 10 ml | FC(C(=O)O)(F)F | C2HF3O2
reactant | sodium methylate·methanol | C[O-].[Na+].CO
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
solvent | chloroform | 50 ml | C(Cl)(Cl)Cl | CHCl3
product | 4-[(1-benzyl-4-piperidinylidene)acetyl]aniline | 2.33 g | C(C1=CC=CC=C1)N1CCC(CC1)=CC(=O)C1=CC=C(N)C=C1 | C20H22N2O
